US09079889B2
To a solution of (2S,3R)-3-(tert-butyldimethylsilyloxy)-3-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropan-1-ol (1.0 equiv.), DIAD (2.0 equiv.), and PPh3 (2.0 equiv.) in THF (0.18 M) was added DPPA (1.0 equiv., 1M solution in THF). The reaction mixture was stirred at room temperature overnight. Upon removal of the volatiles under vacuo, the residue was purified by silica gel column chromatography (2-3-5% EtOAc/n-heptanes) yielding ((1R,2S)-3-azido-1-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropoxy)(tert-butyl)dimethylsilane (62%). 1H-NMR (400 MHz, CDCl3): δ 4.04-4.10 (m, 1H), 3.94 (dd, J=8.0, 6.4, 1H), 3.72 (d, J=7.2, 1H), 3.53 (t, J=8.0, 1H), 3.36 (dd, J=12, 8.0, 1H), 3.19 (dd, J=12.0, 6.7, 1H), 1.52-1.60 (m, 1H), 1.41 (s, 3H), 1.34 (s, 3H), 0.92 (d, J=7.2, 3H), 0.90 (s, 9H), 0.12 (s, 3H), 0.09 (s, 3H).

reactant | (2S,3R)-3-(tert-butyldimethylsilyloxy)-3-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropan-1-ol | 1.0 equiv. | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](CO)C)[C@@H]1OC(OC1)(C)C | C15H32O4Si
reactant | DIAD | 2.0 equiv. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | PPh3 | 2.0 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DPPA | 1M, 1.0 equiv. | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 0.18 M | C1CCOC1 | C4H8O
product | ((1R,2S)-3-azido-1-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2-methylpropoxy)(tert-butyl)dimethylsilane | 62% | N(=[N+]=[N-])C[C@@H]([C@@H](O[Si](C)(C)C(C)(C)C)[C@@H]1OC(OC1)(C)C)C | C15H31N3O3Si
